US07795257B2
G. 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic Acid
Sodium hydroxide (12 mg, 0.2996 mmol) was dissolved in a minimum amount of water and added to a solution of title compound F, 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic acid ethyl ester (90 mg, 0.1498 mmol) in methanol. The reaction was stirred at room temperature overnight, poured into 1N hydrochloric acid, and extracted with ethyl acetate. Extracts were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford the title compound as a yellow foam (63 mg, 73%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.05-1.16 (m, 2 H) 1.36-1.47 (m, 2 H) 1.49-1.61 (m, 5 H) 1.66-1.72 (m, 3 H) 1.75 (s, 1 H) 1.78-1.80 (m, 1 H) 1.92-2.02 (m, 1 H) 2.08-2.18 (m, 1 H) 2.40 (t, J=9.85 Hz, 2 H) 3.35 (d, J=11.37 Hz, 2 H) 3.82-3.92 (m, 4 H) 6.74 (d, J=8.59 Hz, 1 H) 7.59-7.67 (m, 4 H) 7.79 (d, J=8.84 Hz, 1 H) LC/MS 573.1 (M+1) 571.4 (M−1) EC50 in primary enzyme assay 7.1 μM

reactant | Sodium hydroxide | 0.2996 mmol, 12 mg | [OH-].[Na+]
reactant | 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic acid ethyl ester | 0.1498 mmol, 90 mg | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)OC)=O | C29H36N4O6S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-{4-[2-Cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperidine-4-carboxylic Acid | 63 mg, 73% | C1(CCCC1)CC(C(NC=1SC2=NC(=CC=C2N1)OC)=O)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)O | C27H32N4O6S2
